US06551682B1
A reaction flask was loaded with 3,5-dichloro-2,4,6-trifluoropyridine (5.6 g), DMF (15 ml), and potassium carbonate (9.2 g), and heated up to 30° C. with stirring. To this, a mixture of 2,2,2-trifluoroethanol (5.6 g) and DMF (10 ml) was dropwise added in one hour. After the dropwise addition was ended, the temperature was raised to 50° C., followed by stirring for three hours. The heating was stopped and left to cool. Thereafter, water (100 ml) was added to the reaction mixture, followed by extraction with ether. The ether layer was condensed to give 3,5-dichloro-2-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridine (9.7 g). By GC/MS analysis, a molecular ion peak of 362 was confirmed.

reactant | 3,5-dichloro-2,4,6-trifluoropyridine | 5.6 g | ClC=1C(=NC(=C(C1F)Cl)F)F | C5Cl2F3N
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 9.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,2-trifluoroethanol | 5.6 g | FC(CO)(F)F | C2H3F3O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3,5-dichloro-2-fluoro-4,6-bis(2,2,2-trifluoroethoxy)pyridine | 9.7 g | ClC=1C(=NC(=C(C1OCC(F)(F)F)Cl)OCC(F)(F)F)F | C9H4Cl2F7NO2
